US06166006
To a suspension of 5-bromo-2-furancarboxylic acid (5.00 g) and N-hydroxysuccinimide (3.31 g) in acetonitrile (50 ml) was added 1-ethyl-3-(3'-dimethylaminopropyl)-carbodiimide hydrochloride (5.52 g) at room temperature, and the mixture was stirred for 2 hours. To the reaction mixture was added a suspension of N,O-dimethylhydroxyl-amine hydrochloride (2.81 g) and triethylamine (10 ml) in acetonitrile (20 ml), and the mixture was stirred for 1 hour. To the reaction mixture were added 1,8-diazabicyclo-[5.4.0]-7-undecene (4.3 ml) and DMF (50 ml), and the mixture was stirred for 3 hours and concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:4→1:3→1:2) to give N-methyl-N-methoxy-5-bromofuran-2-carboxamide (2.77 g) as pale yellow oil.

reactant | 5-bromo-2-furancarboxylic acid | 5.00 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | N-hydroxysuccinimide | 3.31 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)-carbodiimide hydrochloride | 5.52 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,O-dimethylhydroxyl-amine hydrochloride | 2.81 g | Cl.CNOC
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-methoxy-5-bromofuran-2-carboxamide | 2.77 g | CN(C(=O)C=1OC(=CC1)Br)OC | C7H8BrNO3
